US08168794B2
To a solution of (3R,5R)-3-(tert-butyldimethylsilyloxy)-5-fluoro-1-(4-methoxybenzyl)piperidine (1 eq) in 5 mL of methanol was added 10% Pd/C (0.2 eq). The resulting suspension was stirred at H2 atmosphere overnight. The crude solids were filtered through a pad of Celite on a paper lined Buchner funnel, washed with MeOH, then concentrated in vacuo to yield (3R,5R)-3-(tert-butyldimethylsilyloxy)-5-fluoropiperidine, which was used to next step without further purification. LC/MS (m/z): 234.1 (MH+).

reactant | (3R,5R)-3-(tert-butyldimethylsilyloxy)-5-fluoro-1-(4-methoxybenzyl)piperidine | 1 eq | [Si](C)(C)(C(C)(C)C)O[C@H]1CN(C[C@@H](C1)F)CC1=CC=C(C=C1)OC | C19H32FNO2Si
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | 0.2 eq | [Pd] | Pd
product | (3R,5R)-3-(tert-butyldimethylsilyloxy)-5-fluoropiperidine | [Si](C)(C)(C(C)(C)C)O[C@H]1CNC[C@@H](C1)F | C11H24FNOSi
